US07087601B2
A mixture of 3-bromo-4-methylbenzoic acid (1.0 g, 4.7 mmol) and thionyl chloride (18 mL) was refluxed for 1 h and then cooled to rt. The excess thionyl chloride was removed in vacuo, the residue was dissolved in THF (10 mL), and was added to a cooled (0° C.) mixture of 2-aminophenol (510 mg, 4.7 mmol) and diisopropylethylamine (0.90 mL, 5.1 mmol) in THF (18 mL). The resulting mixture was stirred at rt for 4 h. The solvent was then removed and the residue was purified by flash chromatography on silica gel eluting with EtOAc:hexane (1:5 to 1:4) to afford 3-bromo-N-(2-hydroxyphenyl)-4-methylbenzamide.

reactant | 3-bromo-4-methylbenzoic acid | 4.7 mmol, 1.0 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | thionyl chloride | 18 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-aminophenol | 4.7 mmol, 510 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | diisopropylethylamine | 5.1 mmol, 0.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 3-bromo-N-(2-hydroxyphenyl)-4-methylbenzamide | BrC=1C=C(C(=O)NC2=C(C=CC=C2)O)C=CC1C | C14H12BrNO2
